US05068300
4-(4-Carbo-tert.-butoxyphenyl)-2-methyl-3-butyn-2-ol
257.1 g of 4-Bromobenzoic acid tert.-butyl ester, 168 g of 2-methyl-3-butyn-2-ol and 15.6 g of (Ph3P)2PdCl2 in 1.5 l of absolute acetonitrile and 480 ml of triethylamine are stirred together at reflux for 6 hours under nitrogen. The product is then concentrated by evaporation and worked up with toluene/H2O to yield 185 g of an oil which slowly crystallises.

reactant | 4-Bromobenzoic acid tert.-butyl ester | 257.1 g | C(C)(C)(C)OC(C1=CC=C(C=C1)Br)=O | C11H13BrO2
reactant | 2-methyl-3-butyn-2-ol | 168 g | CC(C)(C#C)O | C5H8O
solvent | acetonitrile | 1.5 l | C(C)#N | C2H3N
solvent | triethylamine | 480 ml | C(C)N(CC)CC | C6H15N
catalyst | (Ph3P)2PdCl2 | 15.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-Carbo-tert.-butoxyphenyl)-2-methyl-3-butyn-2-ol | 185 g | C(=O)(OC(C)(C)C)C1=CC=C(C=C1)C#CC(C)(O)C | C16H20O3
